US07202363B2
N-(4-{4-amino-7-[({[4-(dimethylamino)phenyl]amino}carbonyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide and 4-(dimethylamino)phenyl isocyanate using General Procedure N followed by General Procedure M. 1H NMR (DMSO-d6, 400 MHz) δ 9.52 (s, 1H), 8.48 (s, 1H), 8.11 (s, 1H), 7.99 (d, 1H), 7.95 (s, 1H), 7.71 (d, 1H), 7.59 (d, 1H), 7.55 (s, 1H), 7.35 (s, 1H), 7.29 (m, 3H), 7.21 (m, 1H), 7.15 (t, 1H), 7.08 (d, 1H), 6.70 (d, 2H), 5.39 (br, 2H), 4.04 (s, 3H), 3.92 (s, 3H), 2.83 (s, 6H); MS: (MH)+ 606.

reactant | N-[4-(7-amino-4-{[(dimethylamino)methylene]amino}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | NC=1C2=C(C(=NC1)N=CN(C)C)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C27H26N6O2S
reactant | 4-(dimethylamino)phenyl isocyanate | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
product | N-(4-{4-amino-7-[({[4-(dimethylamino)phenyl]amino}carbonyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)NC(=O)NC2=CC=C(C=C2)N(C)C | C33H31N7O3S
